US04107307
5-Methyl-2-phenyl-4-imidazolecarboxaldehyde
A 102.1 gm. portion of 5-methyl-2-phenyl-4-imidazolemethanol is dissolved in 765 ml. of concentrated HNO3. The solution is cooled in an ice bath and allowed to stand for 16 hours. The solution is heated on a steam bath for 30 minutes, diluted with 2.3 liters of water and neutralized with 50% NaOH while cooling in an ice bath. The solid is collected, dried, recrystallized from 200 ml. of ethanol and then from 1 liter of 1:2 ethanol:water giving the desired product, m.p. 102°-115° C.

reactant | 5-methyl-2-phenyl-4-imidazolemethanol | CC1=C(N=C(N1)C1=CC=CC=C1)CO | C11H12N2O
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | water | 2.3 liters | O | H2O
solvent | NaOH | [OH-].[Na+]
product | 5-Methyl-2-phenyl-4-imidazolecarboxaldehyde | CC1=C(N=C(N1)C1=CC=CC=C1)C=O | C11H10N2O
